US08871753B2
Step A: tert-Butyl {3-[(3-nitrobenzyl)thio]phenyl}carbamate
A solution of 3-[(3-nitrobenzyl)thio]aniline (0.60 g, 2.3 mmol) in ethanol (2.5 mL) was treated with di-tert-butyldicarbonate (0.65 g, 3.0 mmol) and stirred at 25° C. for 7 h. The reaction mixture was treated with additional di-tert-butyldicarbonate (0.25 g, 1.1 mmol) and stirred at 25° C. for 16 h. The reaction mixture was concentrated to a crude oil. This material was purified by flash column chromatography to give the desired product (0.83 g, quantitative yield) as a clear oil. LCMS for C18H20N2O4SNa (M+Na)+: m/z=383.1.

reactant | 3-[(3-nitrobenzyl)thio]aniline | 2.3 mmol, 0.60 g | [N+](=O)([O-])C=1C=C(CSC=2C=C(N)C=CC2)C=CC1 | C13H12N2O2S
reactant | di-tert-butyldicarbonate | 3.0 mmol, 0.65 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyldicarbonate | 1.1 mmol, 0.25 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | tert-Butyl {3-[(3-nitrobenzyl)thio]phenyl}carbamate | 0.83 g, quantitative yield | [N+](=O)([O-])C=1C=C(CSC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC1 | C18H20N2O4S
